US06900345B2
3a, 7a-dihydroxy-octahydro-4,8-dioxa-2,6-diaza-s-indacene-2,6-dicarboxylic acid di-tert-butyl ester Dimethyl sulfoxide (279 μl, 3.94 mmol) was added dropwise to a stirred solution of oxalyl chloride (258 μl, 2.95 mmol) in THF (10 ml) at −78° C. After 10 min (3S,4S)-3,4-dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (0.5 g, 2.46 mmol) [Nagel, Angew. Chem., 96, 425 (1984)] in THF (5 ml) was added. The mixture was stirred at −78° C. for 95 min, after which triethylamine (1.7 ml, 12.3 mmol) was added. Stirring was continued for a further 20 min, after which the mixture was allowed to warm to room temperature. Citric acid (5% solution) (20 ml) was added and the mixture extracted with ethyl acetate. The organic extracts were combined, dried (MgSO4), filtered, and concentrated in vacuo then purified by flash column chromatography on silica gel, eluting with 50-70% ethyl acetate in petroleum ether to give 3a, 7a-dihydroxy-octahydro-4,8-dioxa-2,6-diaza-s-indacene-2,6-dicarboxylic acid di-tert-butyl ester (195 mg, 20%); m/z (ES+) 425 (100%, [MNa]+).

reactant | 3a, 7a-dihydroxy-octahydro-4,8-dioxa-2,6-diaza-s-indacene-2,6-dicarboxylic acid di-tert-butyl ester Dimethyl sulfoxide | 3.94 mmol, 279 μl | CS(=O)C.C(C)(C)(C)OC(=O)N1CC2OC3(CN(CC3OC2(C1)O)C(=O)OC(C)(C)C)O
reactant | oxalyl chloride | 2.95 mmol, 258 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3S,4S)-3,4-dihydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.46 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)O)O | C9H17NO4
reactant | triethylamine | 12.3 mmol, 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | Citric acid | 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3a, 7a-dihydroxy-octahydro-4,8-dioxa-2,6-diaza-s-indacene-2,6-dicarboxylic acid di-tert-butyl ester | 195 mg, 20% | C(C)(C)(C)OC(=O)N1CC2OC3(CN(CC3OC2(C1)O)C(=O)OC(C)(C)C)O | C18H30N2O8
